US04512795
5 parts of 9-hydroxy-3,4-diazatricyclo[4,2,1,02,5 ]nona-3,7-diene, 5 parts of acetic anhydride, 1 part of triethylamine and 100 parts of ether were refluxed for 24 hours, after which the reaction mixture was extracted twice with 50 parts of water, and the organic phase was dried with MgSO4 and evaporated down in a rotary evaporator to give 6.2 parts (95 mole %) of 9-acetoxy-3,4-diazatricyclo[4,2,1,02,5 ]nona-3,7-diene of melting point 58° C.

reactant | 9-hydroxy-3,4-diazatricyclo[4,2,1,02,5 ]nona-3,7-diene | OC1C2C3N=NC3C1C=C2 | C7H8N2O
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | ether | CCOCC | C4H10O
product | 9-acetoxy-3,4-diazatricyclo[4,2,1,02,5 ]nona-3,7-diene | C(C)(=O)OC1C2C3N=NC3C1C=C2 | C9H10N2O2
